US04886809
2 Grams of 6-(4-amino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril and 3.06 ml of triethylamine were dispersed in 40 ml of methylene chloride, then under ice-cooling conditions, 0.78 ml of acetyl chloride was added dropwise thereto, and stirred at room temperature for 4 hours. The reaction mixture was poured into an aqueous solution saturated with sodium chloride, then extracted with chloroform. The extract was dried with anhydrous sodium carbonate, the solvent was removed by evaporation. The residue thus obtained was purified by means of a silica gel column chromatography (eluent: dichloromethane:methanol=10:1), then recrystallized from methanol-diethyl ether to yield 0.3 g of 6-(4-acetylamino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril.1/4-hydrate. White powdery substance. Melting point: 228°-229° C. (decomp.).

reactant | 6-(4-amino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril | NC1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C15H19N3O2
reactant | triethylamine | 3.06 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.78 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 6-(4-acetylamino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril | 0.3 g | C(C)(=O)NC1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C17H21N3O3
